US07482340B2
2-Azido-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide (500 mg) was dissolved in methanol (100 ml) and 10% palladium on charcoal (125 mg) was added. Starting material was hydrogenated for 5 hours at room temperature to give 2-amino-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide. The product was isolated as its hydrochloride salt. 1H-NMR (400 MHz; d6-DMSO) δ: 10.7 (s, 1H), 8.35 (d, 1H, J 2.6 Hz), 8.17 (bs, 3H), 8.01 (dd, 1H, J 2.6, 8.9 Hz), 7.47-7.32 (m, 51), 7.00 (d, 1H, J 8.9 Hz), 6.89-6.86 (m, 3H), 5.12 (dd, 1H, J 1.90, 10.1 Hz), 3.79 (q, 2H, J 5.6 Hz), 3.01-2.92 (m, 1H), 2.74-2.70 (m, 1H), 2.20-2.15 (m, 1H), 2.05-1.94 (m, 1H).

reactant | 2-Azido-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide | 500 mg | N(=[N+]=[N-])CC(=O)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H19N5O3
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on charcoal | 125 mg | [Pd] | Pd
product | 2-amino-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide | NCC(=O)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H21N3O3
